US08623889B2
Step 1: ((2-chloro-5-fluorophenyl)ethynyl)trimethylsilane
A mixture of 1-chloro-4-fluoro-2-iodobenzene (10 g, 40 mmol), (trimethylsilyl)acetylene (28 mL, 190 mmol), copper(I) iodide (740 mg, 3.9 mmol), (triphenylphosphine)palladium(0) (2.5 g, 2.2 mmol), and N,N-diisopropylethylamine (14 mL, 78 mmol) in 1,4-dioxane (100 mL) was heated at 90° C. for 2 hours. The cooled reaction mixture was then diluted with diethyl ether (200 mL) and washed with water (300 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 220 g, ISCO, heptane) to afford the title compound as a pale yellow oil (5 g, 60%), which was used in the next step without further purification.

reactant | 1-chloro-4-fluoro-2-iodobenzene | 40 mmol, 10 g | ClC1=C(C=C(C=C1)F)I | C6H3ClFI
reactant | (trimethylsilyl)acetylene | 190 mmol, 28 mL | C[Si](C)(C)C#C | C5H10Si
reactant | N,N-diisopropylethylamine | 78 mmol, 14 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | copper(I) iodide | 3.9 mmol, 740 mg | [Cu]I
product | ((2-chloro-5-fluorophenyl)ethynyl)trimethylsilane | 5 g, 60% | ClC1=C(C=C(C=C1)F)C#C[Si](C)(C)C | C11H12ClFSi
